US04886821
N-(2-fluorophenyl)-2-pyridinecarboxamide (11.81 g, 55 mmol) was reacted with Lawesson's reagent (26.04 g, 64 mmol) in toluene (160 mL) at reflux temperature for 5 hours. The solution was preadsorbed onto silica gel and flash chromatographed (eluted with 2.5% ethyl acetate in petroleum ether) to give N-(2-fluorophenyl)-2-pyridinecarbothioamide as a yellow solid (7.26 g, 39%) m.p. 94°-97° C.

reactant | N-(2-fluorophenyl)-2-pyridinecarboxamide | 55 mmol, 11.81 g | FC1=C(C=CC=C1)NC(=O)C1=NC=CC=C1 | C12H9FN2O
reactant | Lawesson's reagent | 64 mmol, 26.04 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 160 mL | C1(=CC=CC=C1)C | C7H8
product | N-(2-fluorophenyl)-2-pyridinecarbothioamide | 7.26 g, 39% | FC1=C(C=CC=C1)NC(=S)C1=NC=CC=C1 | C12H9FN2S
